US08664219B2
POCl3 (220 ml, 2.4 mol, ˜26 eq) was cooled to ˜−50° C. before being carefully treated with 2-cyclohexyl-5,6-dimethylpyrimidin-4-ol (28.9 g, ‘92 mmol’, 1 eq). The cooling bath was then removed and the pot allowed to warm to RT followed by heating to reflux for 6 h. The RM was concentrated, treated with ice and saturated NaHCO3 and extracted into Et2O before being dried (sodium sulfate)/concentrated. The resulting oil was subjected to column chromatography using EtOAc (10%): 40-60 Petrols (90%) as eluent to yield 4-chloro-2-cyclohexyl-5,6-dimethylpyrimidine as an oil (5.7011 g, 28% over first two steps). 1H (400 MHz, DMSO) 1.16-1.90 (10H, m), 2.26 (3H, s), 2.46 (3H, s), 2.60-2.75 (1H, m). ES+225.

reactant | POCl3 | 2.4 mol, 220 ml, ˜26 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclohexyl-5,6-dimethylpyrimidin-4-ol | C1(CCCCC1)C1=NC(=C(C(=N1)O)C)C | C12H18N2O
product | 4-chloro-2-cyclohexyl-5,6-dimethylpyrimidine | ClC1=NC(=NC(=C1C)C)C1CCCCC1 | C12H17ClN2
